US07160901B2
a. 4-(2-tert.Butoxycarbonylamino-ethylamino)-nitrobenzene
4.2 g (29.7 mmol) of N-tert.butoxycarbonyl-ethylenediamine, 5.0 g (31.2 mmol) of 4-fluoro-nitrobenzene and 7.0 g (50.6 mmol) of potassium carbonate are stirred in 25 ml of DMSO for 9 hours at 60° C. After cooling the mixture is diluted with water and extracted with ethyl acetate. The combined organic extracts are dried and evaporated down. The residue is stirred with petroleum ether, decanted off and evaporated down again. The product is stirred with ether and suction filtered.

reactant | N-tert.butoxycarbonyl-ethylenediamine | 29.7 mmol, 4.2 g | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | 4-fluoro-nitrobenzene | 31.2 mmol, 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 50.6 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(2-tert.Butoxycarbonylamino-ethylamino)-nitrobenzene | C(C)(C)(C)OC(=O)NCCNC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O4
